US05002993
A mixture of 5 g (60 mmole) of methylhydroxylamine hydrochloride and 8 g (61 mmole) of cinnamaldehyde were combined in 25 mL of anhydrous methanol and stirred for 15 minutes at room temperature. The solvent was then removed at reduced pressure and replaced with 50 mL of methylene chloride. The solution was washed with 75 mL of saturated aqueous sodium bicarbonate followed by washing with a brine solution. After drying over anhydrous magnesium sulfate, the solvent was removed under reduced pressure. The solid residue was titurated with ether, filtered and dried. There was obtained 7.2 g (45 mmole or 74% yield) of α-cinnamyl-N-methylnitrone having a melting point of 85-6° C.

reactant | methylhydroxylamine hydrochloride | 60 mmole, 5 g | Cl.CNO
reactant | cinnamaldehyde | 61 mmole, 8 g | C(C=CC1=CC=CC=C1)=O | C9H8O
reactant | methanol | 25 mL | CO | CH4O
product | α-cinnamyl-N-methylnitrone | 45 mmole, 7.2 g, 74% yield | C(C=CC1=CC=CC=C1)C=[N+]([O-])C | C11H13NO
